datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:4])([H:5])[H:6],169.87
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][H:18],3.6333856
[C:0](=[C:1]([C:2]([O:3])([H:7])[H:8])[H:6])([H:4])[H:5]>>[C:0](=[C:1]([C:2](=[O:3])[H:8])[H:6])([H:4])[H:5].[H:7],121.7544
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:13])([H:5])([H:6])[H:7].[S:10]=[C:11][S:12][H:14],197.192
[C:0]([C:1]([C:2]1=[C:3]([H:17])[C:4]([H:18])[C:5]([H:19])([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([c:2]1[c:3]([H:17])[c:4]([H:18])[c:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:19],137.408
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[H:15])[H:7],3.72376
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25][C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25](=[C:24]([H:27])[H:28])[C:26]([H:29])([H:30])[H:31])[H:12],9.8324
[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6]>>[C:0]([O:1][C:2](=[O:3])[H:4])([H:5])[H:6],170.16328
[C:0]([C:1](=[O:2])[O:3][C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][H:14])=[O:3])([H:9])([H:10])[H:11].[C:4](=[C:5]([C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:20])([H:21])[H:22])[H:16])[H:15])([H:12])[H:13],194.1376
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:4],57.3626
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:11])([H:9])[H:10],82.9687
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11].[H:12]>>[C:0]1([H:5])=[C:4]([H:11])[C:3]([H:8])([H:9])[C:2]([H:7])=[C:1]1[H:6].[H:10][H:12],0.0
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[O:5]1)([H:7])([H:8])[H:9].[O:6][H:17],56.0656
[O:0]=[C:1][O:2][H:3].[O:4]>>[H:3][O:4].[O:0]=[C:1]=[O:2],0.0
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([C:8](=[C:9]([C:10]([C:11]([H:26])([H:27])[H:28])[H:25])[H:24])[H:23])([H:21])[H:22])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]([H:21])([H:22])[C:8]([H:23])=[C:9]([H:24])[C:10]1([C:11]([H:26])([H:27])[H:28])[H:25])[H:14])([H:12])[H:13],101.169
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([H:15])([H:16])[H:17],32.175
[N:0]([O:1][H:3])[H:2].[O:4][H:5]>>[H:3][O:4][H:5].[N:0](=[O:1])[H:2],-4.97896
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-17.5728
[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])[H:7]>>[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:6])([H:7])[H:11],88.207088
[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[c:11]23.[C:20]([H:21])([H:22])[H:23]>>[C:0]1([H:12])=[C:1]([H:13])[c:2]2[c:3]([H:14])[c:4]([H:15])[c:5]([H:16])[c:6]3[c:7]([H:17])[c:8][c:9]([H:19])[c:10]1[c:11]23.[H:18][C:20]([H:21])([H:22])[H:23],62.608
